US07714017B2
A mixture of 2-amino-3-nitrophenol (1.54 g, 10 mmol), ethyl bromoacetate (1.67 g, 10 mmol), potassium carbonate (1.54 g, 11 mmol) and DMF (5.0 mL) was stirred at room temperature for 20 h. Reaction mixture was diluted with water (100 mL) and extracted with ethyl acetate (100 mL×3). Combined ethyl acetate layers were washed with water (50 mL×2), dried (brine, sodium sulphate), concentrated and dried on high vacuum to give 5-Nitro-4H-benzo[1,4]oxazin-3-one, K-64 (1.6 g).

reactant | 2-amino-3-nitrophenol | 10 mmol, 1.54 g | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | ethyl bromoacetate | 10 mmol, 1.67 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 11 mmol, 1.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 5-Nitro-4H-benzo[1,4]oxazin-3-one | [N+](=O)([O-])C1=CC=CC2=C1NC(CO2)=O | C8H6N2O4
